US04835181
N-(2,6-Dimethylphenyl)-1,4-benzendicarboxamide
Ten grams of 4-cyano-N-(2,6-dimethylphenyl)benzamide and 3 grams of finely powdered potassium hydroxide were slurried in t-butanol and heated at reflux for 50 minutes. The homogeneous mixture was poured into a saturated sodium chloride solution and extracted in chloroform. Material which was insoluable in both the organic and water phases were recovered by filtration, crystallized from methanol, and provided the title compound in 43% yield, m.p. 246°-248° C.

reactant | 4-cyano-N-(2,6-dimethylphenyl)benzamide | Ten grams | C(#N)C1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C16H14N2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | N-(2,6-Dimethylphenyl)-1,4-benzendicarboxamide | 43% yield | CC1=C(C(=CC=C1)C)NC(=O)C1=CC=C(C=C1)C(=O)N | C16H16N2O2
